US08957064B2
6-phenyl-5-{4-[4-(6-trifluoromethyl-1H-benzimidazol-2-yl)piperidin-1-ylmethyl]-phenyl}-pyrazolo[1,5-a]pyrimidine
250 mg (0.84 mmol) 4-(6-phenylpyrazolo[1,5-a]pyrimidin-5-yl)benzaldehyde and 308 mg (1 mmol) 2-piperidine-4-yl-6-trifluoromethyl-1H-benzimidazole hydrochloride salt were treated as previously described. Additional NaBH(OAc)3 has been added after one, two and three hours (two equivalents each). After a further hour stirring at room temperature additional 31 mg 2-piperidine-4-yl-6-trifluoromethyl-1H-benzimidazole hydrochloride salt and two equivalents NaBH(OAc)3 were added. After stirring overnight and two further additions of NaBH(OAc)3 the solvents were evaporated. Workup and purification yields 208 mg of the desired compound.

reactant | 4-(6-phenylpyrazolo[1,5-a]pyrimidin-5-yl)benzaldehyde | 0.84 mmol, 250 mg | C1(=CC=CC=C1)C=1C(=NC=2N(C1)N=CC2)C2=CC=C(C=O)C=C2 | C19H13N3O
reactant | 2-piperidine-4-yl-6-trifluoromethyl-1H-benzimidazole hydrochloride salt | 1 mmol, 308 mg | Cl.N1CCC(CC1)C1=NC2=C(N1)C=C(C=C2)C(F)(F)F
reactant | NaBH(OAc)3 | [BH-](OC(=O)C)(OC(=O)C)OC(=O)C.[Na+]
reactant | 2-piperidine-4-yl-6-trifluoromethyl-1H-benzimidazole hydrochloride salt | 31 mg | Cl.N1CCC(CC1)C1=NC2=C(N1)C=C(C=C2)C(F)(F)F
reactant | NaBH(OAc)3 | two equivalents | [BH-](OC(=O)C)(OC(=O)C)OC(=O)C.[Na+]
product | 6-phenyl-5-{4-[4-(6-trifluoromethyl-1H-benzimidazol-2-yl)piperidin-1-ylmethyl]-phenyl}-pyrazolo[1,5-a]pyrimidine | 208 mg | C1(=CC=CC=C1)C=1C(=NC=2N(C1)N=CC2)C2=CC=C(C=C2)CN2CCC(CC2)C2=NC1=C(N2)C=C(C=C1)C(F)(F)F | C32H27F3N6
